US03951958
A solution of 400 mg. of 1,3,16α-trihydroxy-8α-estra-1,3,5(10)-trien-17-one in 5 ml. of pyridine is combined at 0° C. with 1.5 ml. of methanesulfonic acid chloride and agitated for 3 days at 0°-10° C. The mixture is thereafter introduced inyo ice water (acidified with HCl), filtered off, and the residue is dissolved in methylene chloride. After chromatography on SiO2, 250 mg. of 1,3,16α-tris(mesyloxy)-8α-estra-1,3,5(10)-trien-17-one is obtained.

reactant | 1,3,16α-trihydroxy-8α-estra-1,3,5(10)-trien-17-one | OC1=CC(=CC=2CC[C@@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C12)=O)O)O | C18H22O4
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3,16α-tris(mesyloxy)-8α-estra-1,3,5(10)-trien-17-one | S(=O)(=O)(C)OC1=CC(=CC=2CC[C@@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C12)=O)OS(=O)(=O)C)OS(=O)(=O)C | C21H28O10S3
